US05047411
A mixture of 2-amino-6-[2-(5-methyl-1-tritylimidazol-4-yl)ethyl]benzothiazole (1.4 g) in anisole (1.4 ml) and trifluoroacetic acid (6.0 ml) was stirred for 5 hours at ambient temperature. To the reaction mixture was added a diethyl ether, and precipitate was collected by filtration. To the precipitate was added a mixture of tetrahydrofuran, ethyl acetate and water and the mixture was adjusted to pH 9 with potassium carbonate. The separated organic layer was washed with brine and dried over magnesium sulfate. Evaporation of a solvent gave a residue, which was purified by a column chromatography on alumina eluting with a mixture of chloroform and methanol (9:1, V/V). The eluted fractions containing the desired product were collected and evaporated in vacuo to give 2-amino-6-[2-(5-methylimidazol-4-yl)ethyl]benzothiazole (0.24 g).

reactant | 2-amino-6-[2-(5-methyl-1-tritylimidazol-4-yl)ethyl]benzothiazole | 1.4 g | NC=1SC2=C(N1)C=CC(=C2)CCC=2N=CN(C2C)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C32H28N4S
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | anisole | 1.4 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 6.0 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-amino-6-[2-(5-methylimidazol-4-yl)ethyl]benzothiazole | 0.24 g | NC=1SC2=C(N1)C=CC(=C2)CCC=2N=CNC2C | C13H14N4S
